US06387926B1
N-[6-Bromo-1,2,3,4-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-quinolinyl]-1-naphthalenecarboxamide, dihydrochloride
To a solution of 6-Bromo-1,2,3,4-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-quinolinamine (30 mg, 0.072 mmol) in dimethyl formamide (1 mL) were sequentially added 1-hydroxyazabenzotriazole (19 mg, 0.15 mmol), 1-naphthoic acid (25 mg, 0.15 mmol), diisopropylethyl amine (0.7 mL, 0.4 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (28 mg, 0.15 mmol). After 18 hours, the mixture was diluted with chloroform (10 mL) and washed with saturated NaHCO3 solution (10 mL). The organic layer was separated, dried and concentrated. Purification by silica gel flash column chromatography eluting with 50% ethyl acetate in hexanes followed by 1:9 methanol in chloroform afforded two fractions. More polar fraction 2 (14 mg) was the desired product and the less polar fraction 1 (35 mg) was diacylated product. Fraction 1 was dissolved in methanol (1 mL) and treated with NaOH solution (1 N, 0.2 mL). After 30 minutes, the mixture was concentrated and mixed with fraction 2 obtained above. The resulting mixture was dissolved in chloroform (10 mL) and washed with water (10 mL). The organic layer was dried (MgSO4), concentrated and purified by silica gel flash column eluting with 5% methanol in chloroform to afford the free base of the title compound (20 mg, 60%). The solid was dissolved in chloroform and HCl gas was bubbled for 30 seconds. The mixture was then concentrated in vacuo to afford the title compund (23 mg). MS: (M+H)+=461, 463 (1:1 ratio), 1 Br pattern.

reactant | 6-Bromo-1,2,3,4-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-quinolinamine | 0.072 mmol, 30 mg | BrC=1C=C2CC(CN(C2=CC1)CC=1N=CNC1)N | C13H15BrN4
reactant | 1-hydroxyazabenzotriazole | 0.15 mmol, 19 mg | ON1N=NC2=C1C=CC=N2 | C5H4N4O
reactant | 1-naphthoic acid | 0.15 mmol, 25 mg | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | diisopropylethyl amine | 0.4 mmol, 0.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.15 mmol, 28 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethyl formamide | 1 mL | CN(C=O)C | C3H7NO
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[6-Bromo-1,2,3,4-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-quinolinyl]-1-naphthalenecarboxamide, dihydrochloride | Cl.Cl.BrC=1C=C2CC(CN(C2=CC1)CC=1N=CNC1)NC(=O)C1=CC=CC2=CC=CC=C12 | InChI=1S/C24H21BrN4O.2ClH/c25-18-8-9-23-17(10-18)11-19(13-29(23)14-20-12-26-15-27-20)28-24(30)22-7-3-5-16-4-1-2-6-21(16)22;;/h1-10,12,15,19H,11,13-14H2,(H,26,27)(H,28,30);2*1H
